US07638541B2
Step 3: 4-Fluoro-4-(5-hydroxymethyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a cooled (−78° C.) and stirred solution of 4-fluoro-4-thiazol-2-yl-piperidine-1-carboxylic acid tert-butyl ester (3.65 g, 12.7 mmol) in THF (20 mL) was added n-BuLi (1.33 mL, 1.05 eq., 10.0 M in hexanes). The mixture was stirred at this temperature for 30 minutes. Then a suspension of paraformaldehyde (383 mg, 1 eq.) in THF (10 mL) was added in. The resulting mixture was continued to stir at −78° C. for another 30 minutes and gradually warmed to room temperature overnight. The reaction was quenched by addition of water (10 mL). The mixture was extracted with EtOAc. The organic phase was washed with brine and dried over Na2SO4. After removal of the solvent, the crude product was purified on silica gel (60% EtOAc in hexanes) to afford the desired product as a pale yellow solid.

reactant | 4-fluoro-4-thiazol-2-yl-piperidine-1-carboxylic acid tert-butyl ester | 12.7 mmol, 3.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1SC=CN1)F | C13H19FN2O2S
reactant | n-BuLi | 10.0 M, 1.33 mL, 1.05 eq. | [Li]CCCC
reactant | paraformaldehyde | 383 mg, 1 eq. | C=O | CH2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-4-(5-hydroxymethyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1SC(=CN1)CO)F | C14H21FN2O3S
